US04723006
620 parts of 4-chloro-4-chloromethyloxetan-2-one and 440 parts of guanidine hydrochloride were charged to a reaction flask and the mixture was stirred and heated under nitrogen purge as the bath temperature was gradually raised to 120° C. When the bath temperature approached 100° C., reaction commenced accompanied by evolution of hydrogen chloride. When the initial reaction subsided after a few minutes the bath temperature was raised to 130° C. and held until the reaction ceased as indicated by cessation of gassing (about 1 hour). The reaction mixture was allowed to cool about 60° C. and 1750 parts of water was added to the syrup. The solution was extracted with 500 parts of ethyl acetate and the extract was discarded. The aqueous phase was treated with decolourising charcoal, filtered and the pH was adjusted to pH 8 by the addition of saturated aqueous sodium bicarbonate solution. The precipitated solid was filtered, washed with water and dried to constant weight at 80° C. in a vacuum oven to give 2-amino-4-chloromethyl-6-hydroxypyrimidine, m.p. 195°-197° C.

reactant | 4-chloro-4-chloromethyloxetan-2-one | ClC1(CC(O1)=O)CCl | C4H4Cl2O2
reactant | guanidine hydrochloride | Cl.NC(=N)N
reactant | hydrogen chloride | Cl | ClH
solvent | water | O | H2O
product | 2-amino-4-chloromethyl-6-hydroxypyrimidine | NC1=NC(=CC(=N1)CCl)O | C5H6ClN3O
